US08431607B2
(4S,5R)-3-(4-(4-chlorophenoxy)phenyl)-4-(3-fluorophenyl)-5-((phenylthio)methyl)oxazolidin-2-one
((4S,5R)-3-(4-(4-chlorophenoxy)phenyl)-4-(3-fluorophenyl)-2-oxooxazolidin-5-yl)methyl methanesulfonate (0.3 mmol, prepared by the methods described in example 34) was dissolved in ethanol (1.5 mL) and treated with benzenethiol (0.6 mmol) and triethylamine (0.6 mmol). The reaction mixture was heated to 75° C. for 8 h, then was cooled to room temperature, diluted with ethyl acetate, washed with 1M HCl and then purified on silica gel (10-30% ethyl acetate/hexanes) to give the title compound as a colorless oil. 1H NMR (CDCl3) δ (ppm) 7.31-7.37 (m, 5H), 7.24-7.29 (m, 5H), 7.08 (d, 1H, J=7.7 Hz), 6.97-7.04 (m, 2H), 6.86-6.91 (m, 4H), 5.21 (d, 1H, J=4.0 Hz), (ddd, 1H, J=8.4, 4.0, 4.0 Hz), 3.46 (dd, 1H, J=14.2, 3.9 Hz), 3.22 (dd, 1H, J=14.2, 8.7 Hz). HPLC-MS calculated C28H21ClFNO3S (M+H+): 506.1, found 506.1.

reactant | ((4S,5R)-3-(4-(4-chlorophenoxy)phenyl)-4-(3-fluorophenyl)-2-oxooxazolidin-5-yl)methyl methanesulfonate | CS(=O)(=O)OC[C@H]1[C@@H](N(C(O1)=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)C1=CC(=CC=C1)F | C23H19ClFNO6S
reactant | benzenethiol | 0.6 mmol | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 0.6 mmol | C(C)N(CC)CC | C6H15N
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4S,5R)-3-(4-(4-chlorophenoxy)phenyl)-4-(3-fluorophenyl)-5-((phenylthio)methyl)oxazolidin-2-one | ClC1=CC=C(OC2=CC=C(C=C2)N2C(O[C@H]([C@@H]2C2=CC(=CC=C2)F)CSC2=CC=CC=C2)=O)C=C1 | C28H21ClFNO3S
